US08912188B2
To a solution of 5-bromo-1H-indole-3-carbaldehyde (5.0 g, 22.3 mmol) in THF (80 mL) was added LiAlH4 (1.70 g, 44.6 mmol). The resulting solution was stirred for 2 h under reflux, then poured into 1N NaOH solution (150 mL), extracted with ethyl acetate (3×100 mL), dried over anhydrous sodium sulfate, and then concentrated under vacuum to give a residue, which was purified via silica gel chromatography (3% ethyl acetate in petroleum ether) to afford 5-bromo-3-methyl-1H-indole as a white solid (3.4 g, 73%).

reactant | 5-bromo-1H-indole-3-carbaldehyde | 22.3 mmol, 5.0 g | BrC=1C=C2C(=CNC2=CC1)C=O | C9H6BrNO
reactant | LiAlH4 | 44.6 mmol, 1.70 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 1N, 150 mL | [OH-].[Na+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 5-bromo-3-methyl-1H-indole | 3.4 g, 73% | BrC=1C=C2C(=CNC2=CC1)C | C9H8BrN
